US05491072
10-Methyl-N-(phenyl)-N-(p-toluenesulfonamido) acridan-9-carboxamide (1e).
10-Methyl-N-(phenyl)-N-(p-toluenesulfonamido)acridinium-9-carboxamide trifluoromethanesulfonate (10 mg, 0.0016 mmol) was suspended in absolute ethanol (10 mL) and solution was refluxed for 15 min to obtain a clear solution. Ammonium chloride (88 mg, 1.6 mmol) was added by portions to thesolution followed by zinc (108 mg, 1.6 mmol). The yellow color of solution disappeared immediately after the addition of zinc. Colorless solution wasrefluxed for 2 h. TLC of reaction mixture showed complete conversion to a non-polar material. Solution was filtered and precipitate was washed with ethanol (3×20 mL). Solution was concentrated to obtain an off-white solid which was redissolved in methylene chloride and washed with water (2×15 mL). Organic layer was dried over Na2SO4 and concentrated to yield the crude product which was purified by preparative TLC using (30% ethyl acetate:hexane) Pure product was obtained as an off-white solid. 1HNMR (CDCl3) δ2.40 (s, 3H), 3.18 (s, 3H) 5.00 (s, 1H), 6.76-7.77 (m, 12H).

reactant | 10-Methyl-N-(phenyl)-N-(p-toluenesulfonamido)acridinium-9-carboxamide trifluoromethanesulfonate | 0.0016 mmol, 10 mg | FC(S(=O)(=O)[O-])(F)F.C[N+]1=C2C=CC=CC2=C(C2=CC=CC=C12)C(=O)N(NS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1
reactant | Ammonium chloride | 1.6 mmol, 88 mg | [Cl-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | zinc | 1.6 mmol, 108 mg | [Zn] | Zn
product | 10-Methyl-N-(phenyl)-N-(p-toluenesulfonamido) acridan-9-carboxamide | CN1C=2C=CC=CC2C(C2=CC=CC=C12)C(=O)N(NS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C28H25N3O3S
